US03943141
b. 7-Ethoxy-1(2-formyloxyethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
Formic acid (1 ml) was added to acetic anhydride (2 ml) which was cooled to 0°. The mixture was warmed to 50° for 15 minutes, cooled to 0° and added to a suspension of 7-ethoxy-1,4-dihydro-1-hydroxyethyl-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.78 g) in dry pyridine (10 ml). The mixture was stirred at 0° for 45 minutes and then for 1 hour at room temperature. The solid was collected and washed with water and dried, m.p. 208.5°-210° (d). (71 %).

reactant | Formic acid | 1 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-ethoxy-1,4-dihydro-1-hydroxyethyl-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.78 g | C(C)OC1=CC=C2C(C(=CN(C2=N1)C(C)O)C(=O)O)=O | C13H14N2O5
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-Ethoxy-1(2-formyloxyethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | C(C)OC1=CC=C2C(C(=CN(C2=N1)CCOC=O)C(=O)O)=O | C14H14N2O6
